US09062016B2
185 g (2.0 mol) of epichlorohydrin, 30 g of water, 5 g of methanol and 1.5 g of 32% aqueous solution of sodium hydroxide were mixed together, and 35 g (1.0 mol) of hydrogen sulfide was blown into the mixture with stirring with the temperature of the solution being maintained at 5 to 15° C., thereby obtaining 210 g (0.96 mol, yield: 96%) of bis(3-chloro-2-hydroxypropyl)sulfide.

reactant | epichlorohydrin | 2.0 mol, 185 g | C(Cl)C1CO1 | C3H5ClO
reactant | water | 30 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen sulfide | 1.0 mol, 35 g | S | H2S
solvent | methanol | 5 g | CO | CH4O
product | bis(3-chloro-2-hydroxypropyl)sulfide | 0.96 mol, 210 g, yield: 96% | ClCC(CSCC(CCl)O)O | C6H12Cl2O2S
